US07160906B2
2-{(3-amino-5-[2-(4-methyl-thiazol-5-yl) ethoxy]benzoylamino}-5-pyridine Carboxylic Acid (Route 7)
10% Palladium on carbon (0.20 g) was added under an argon atmosphere to a solution of methyl 2-[3-nitro-5-(4-methyl-thiazol-5-yl) ethoxy benzoyl]amino-5-pyridine carboxylate (1.05 g, 1.7 mM) in ethyl acetate (50 ml)/ethanol (50 ml). Hydrogen gas was introduced and the reaction mixture stirred vigorously for 18 hrs before filtering through diatomaceous earth, concentration in vacuo and replacement of the catalyst (80 mg). After stirring under hydrogen gas for a further 18 hrs a final catalyst change was carried out, after which the crude aniline was purified on silica gel (1% to 4% MeOH/DCM) to give the title compound as a colourless solid (0.43 g, 60%); 1H NMR δ (d6-DMSO): 2.36 (s, 3H), 3.18 (dd, 2H), 3.88 (s, 3H), 4.12 (dd, 2H), 5.32 (bs, 2H), 6.33 (m, 1H), 6.79 (m, 2H), 8.30 (m, 2H), 8.81 (s, 1H), 8.88 (m, 1H), 10.90 (bs, 1H).

reactant | methyl 2-[3-nitro-5-(4-methyl-thiazol-5-yl) ethoxy benzoyl]amino-5-pyridine carboxylate | 1.7 mM, 1.05 g | [N+](=O)([O-])C=1C=C(C(=O)NC2=NC=C(C=C2)C(=O)OC)C=C(C1)OCCC1=C(N=CS1)C | C20H18N4O6S
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | Hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 0.20 g | [Pd] | Pd
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (3-amino-5-[2-(4-methyl-thiazol-5-yl) ethoxy]benzoylamino}-5-pyridine Carboxylic Acid | 0.43 g, 60% | NC=1C=C(C(=O)NC2=NC=C(C=C2)C(=O)O)C=C(C1)OCCC1=C(N=CS1)C | C19H18N4O4S
